US07429665B2
4-[3-(4-Benzyloxy-2-fluoro-phenyl)-1H-pyrazol-4-yl]-pyridine
Following the procedure for the preparation of 2-[4-(4-Pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline but substituting 1-(4-Benzyloxy-2-fluoro-phenyl)-2-pyridin-4-yl-ethanone provided the title compound. MS: (M+H m/z=346.3).

reactant | 2-[4-(4-Pyridin4-yl-1H-pyrazol-3-yl)-phenoxymethyl]-quinoline | N1=CC=C(C=C1)C=1C(=NNC1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C24H18N4O
reactant | 1-(4-Benzyloxy-2-fluoro-phenyl)-2-pyridin-4-yl-ethanone | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C(CC1=CC=NC=C1)=O)F | C20H16FNO2
product | 4-[3-(4-Benzyloxy-2-fluoro-phenyl)-1H-pyrazol-4-yl]-pyridine | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)C1=NNC=C1C1=CC=NC=C1)F | C21H16FN3O
